US07230017B2
3-{[3-(Trifluoromethyl)phenyl]amino}-2-butenenitrile
3-Aminocrotonitrile (1.0 g, 12.2 mmol), 3-trifluoromethylaniline (2.0 g, 12.4 mmol), and acetic acid (1.23 g, 20.5 mmol) are dissolved in water (8 ml). The reaction mixture is stirred at room temperature for 30 minutes. The mixture is extracted with toluene three times and the organic phase is dried over sodium sulfate. The solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate mixtures as eluent.

reactant | 3-Aminocrotonitrile | 12.2 mmol, 1.0 g | C/C(=C\C#N)/N | C4H6N2
reactant | 3-trifluoromethylaniline | 12.4 mmol, 2.0 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | acetic acid | 20.5 mmol, 1.23 g | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
product | 3-{[3-(Trifluoromethyl)phenyl]amino}-2-butenenitrile | FC(C=1C=C(C=CC1)NC(=CC#N)C)(F)F | C11H9F3N2
